US03968235
5-(5-Isopropoxy-3-methyl-2-pentenyloxy)-1,3-benzodioxol (according to process a)
1.7 g (0.03 mol) of pulverised potassium hydroxide are added to a solution of 4.1 g (0.03 mol) of 3,4-methylendioxy-phenol and 6.2 g (0.035 mol) of 1-chloro-5-isopropoxy-3-methyl-2-pentene in 100 cc of 1,2-dimethoxyethane. The mixture is stirred at 60° for a period of 18 hours, is subsequently filtered and evaporated at reduced pressure. The residue is dissolved in ether, washed with 5% solution of sodium hydroxide and subsequently with saturated salt solution, dried with sodium sulphate and evaporated.

reactant | potassium hydroxide | 0.03 mol, 1.7 g | [OH-].[K+]
reactant | 3,4-methylendioxy-phenol | 0.03 mol, 4.1 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | 1-chloro-5-isopropoxy-3-methyl-2-pentene | 0.035 mol, 6.2 g | ClCC=C(CCOC(C)C)C | C9H17ClO
solvent | 1,2-dimethoxyethane | 100 cc | COCCOC | C4H10O2
product | 5-(5-Isopropoxy-3-methyl-2-pentenyloxy)-1,3-benzodioxol | C(C)(C)OCCC(=CCOC1=CC2=C(OCO2)C=C1)C | C16H22O4
